US08227504B2
N-{2-Methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenyl}-6-pyrrol-1-yl-nicotinamide
The title compound was prepared in a manner substantially the same as Example 1 by coupling 2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenylamine with 6-pyrrol-1-yl-nicotinic acid. MS: 444.5 (M+H).

reactant | 2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenylamine | CC1=C(C=CC(=C1)N1CC(CC1)CN1C(CCC1)C)N | C17H27N3
reactant | 6-pyrrol-1-yl-nicotinic acid | N1(C=CC=C1)C1=NC=C(C(=O)O)C=C1 | C10H8N2O2
product | N-{2-Methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenyl}-6-pyrrol-1-yl-nicotinamide | CC1=C(C=CC(=C1)N1CC(CC1)CN1C(CCC1)C)NC(C1=CN=C(C=C1)N1C=CC=C1)=O | C27H33N5O
